US05739351
2.06 g of potassium carbonate, 0.5 g of sodium iodide and 1.25 cm3 of pyrrolidine are added to a solution [lacuna] 5.3 g of benzyl [2-(3-bromopropoxy)phenyl)acetate in 100 cm3 of acetonitrile. The mixture is heated at 90° C. for 3 hours and then cooled to room temperature, 50 cm3 of water are added, and the mixture is then diluted with 50 cm3 of dichloromethane. The organic phase is separated off, washed with water and then dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). 5.3 g of benzyl {2-[3-(1-pyrrolidinyl)propoxy]phenyl}acetate are obtained in the form of an orange-coloured oil.

reactant | potassium carbonate | 2.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.5 g | [I-].[Na+]
reactant | pyrrolidine | 1.25 cm3 | N1CCCC1 | C4H9N
reactant | benzyl [2-(3-bromopropoxy)phenyl)acetate | 5.3 g | BrCCCOC1=C(C=CC=C1)CC(=O)OCC1=CC=CC=C1 | C18H19BrO3
solvent | acetonitrile | 100 cm3 | C(C)#N | C2H3N
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
solvent | water | 50 cm3 | O | H2O
product | benzyl {2-[3-(1-pyrrolidinyl)propoxy]phenyl}acetate | 5.3 g | N1(CCCC1)CCCOC1=C(C=CC=C1)CC(=O)OCC1=CC=CC=C1 | C22H27NO3
